US05776658
Preparation of 2-benzyl-2-dimethylamino-1-[2-(2-triethoxysilylethyl)-4-morpholinophenyl]-1-butanone (10)
14.6 g (40 mmol) of 2-benzyl-2-dimethylamino-1-(4-morpholinophenyl) -1-butanone, 750 mg (0.8 mmol) of RuH2 (CO) (PPh3)3 and 18.4 ml (88 mmol) of vinyltriethoxysilane were dissolved in 50 ml of toluene and degased using argon. After heating for 29 hours with stirring at reflux, the solvent was distilled off and the product was chromatographed (silica gel, heptane/CH2Cl2 /ethyl acetate). 22 g (100%) of a brown oil were obtained which were purified by boiling in heptane with active charcoal followed by filtration to give a yellow, viscous oil in a quantity of 20.6 g (95%). 1H-NMR (CDCl3): 0.64 ppm (3H, t, Bu-H4, 3JH,H =7.0 Hz); 1.10 ppm (2H, mc, Et-H2); 1.26 ppm (9H, t, CH3 of Si(OEt)3, 3JH,H =6.8 Hz); 1.88 ppm (2H, mc, Bu-H3); 2.36 ppm (6H, s, N(CH3)2); 2.72 ppm (2H, mc, Et-H1); 3.15 ppm (2H, mc, CH2 -Ph); 3.24 ppm (4H, mc, morpholine-N-CH2); 3.85 ppm (4H, mc, morpholine-o--CH2); 3.88 ppm (6H, q, SiOCH2); 6.60 ppm (1H, dd, Ph-H5, 3JH5,H6 =8.6 Hz, 4 JH3,H5 =2.6 Hz); 6.77 ppm (1H, d, Ph-H3); 7.12-7.28 ppm (5H, m, Ph'-H); 8.38 ppm (1H, d, Ph-H6).

reactant | 2-benzyl-2-dimethylamino-1-(4-morpholinophenyl) -1-butanone | 40 mmol, 14.6 g | C(C1=CC=CC=C1)C(C(=O)C1=CC=C(C=C1)N1CCOCC1)(CC)N(C)C | C23H30N2O2
reactant | vinyltriethoxysilane | 88 mmol, 18.4 ml | C(=C)[Si](OCC)(OCC)OCC | C8H18O3Si
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyl-2-dimethylamino-1-[2-(2-triethoxysilylethyl)-4-morpholinophenyl]-1-butanone | 22 g, 100% | C(C1=CC=CC=C1)C(C(=O)C1=C(C=C(C=C1)N1CCOCC1)CC[Si](OCC)(OCC)OCC)(CC)N(C)C | C31H48N2O5Si
